US06489344B1
1 mmol of [5-amino-4-(2,4-dichlorophenyl)pyrimidin-2-yl]{2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amine and 1 mmol of acetic anhydride were stirred at room temperature for four hours in THF. The reaction mixture was concentrated in vacuo and diluted with water and ethyl acetate. The solution was extracted three times with ethyl acetate, dried over sodium sulfate, and purified by column chromatography eluting with 5-10% methanol/methylene chloride to obtain N-[2-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-4-(2,4-dichlorophenyl)pyrimidin-5-yl]acetamide.

reactant | [5-amino-4-(2,4-dichlorophenyl)pyrimidin-2-yl]{2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amine | 1 mmol | NC=1C(=NC(=NC1)NCCNC1=NC(=C(C=C1)[N+](=O)[O-])N)C1=C(C=C(C=C1)Cl)Cl | C17H16Cl2N8O2
reactant | acetic anhydride | 1 mmol | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | C1CCOC1 | C4H8O
product | N-[2-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-4-(2,4-dichlorophenyl)pyrimidin-5-yl]acetamide | NC1=C(C=CC(=N1)NCCNC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)NC(C)=O)[N+](=O)[O-] | C19H18Cl2N8O3
